US08664431B2
5.2 g (14.5 mmol) 4-(2-(3-bromopropionyloxy)ethoxy)phenyl-2-hydroxy-2-propyl ketone was dissolved in 45 ml acetone. 30 mg BHT and 3.0 g (21.75 mmol) K2CO3 were added and the reaction mixture was refluxed for 5 hours. The reaction mixture was allowed to cool down to room temperature and the inorganic salts were removed by filtration. The solvent was removed under reduced pressure and the residue was treated with 50 ml n.-hexane. 4-(2-acryloyloxyethoxy)phenyl-2-hydroxy-2-propyl ketone was isolated by filtration. 3 g of 4-(2-acryloyloxyethoxy)phenyl-2-hydroxy-2-propyl ketone (75%) was isolated as a white crystalline compound.

reactant | 4-(2-(3-bromopropionyloxy)ethoxy)phenyl-2-hydroxy-2-propyl ketone | 14.5 mmol, 5.2 g | BrCCC(=O)OCCOC1=CC=C(C=C1)CC(C)(O)C(=O)C(C)(CC1=CC=C(C=C1)OCCOC(CCBr)=O)O | C29H36Br2O9
reactant | K2CO3 | 21.75 mmol, 3.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 45 ml | CC(=O)C | C3H6O
product | 4-(2-acryloyloxyethoxy)phenyl-2-hydroxy-2-propyl ketone | C(C=C)(=O)OCCOC1=CC=C(C=C1)CC(C)(O)C(=O)C(C)(CC1=CC=C(C=C1)OCCOC(C=C)=O)O | C29H34O9
